US07994164B2
1-Bromo-4-fluoro-2-(2-iodo-benzyloxy)-benzene
Stir a mixture of 2-iodobenzyl bromide (0.29 mol, 90 g), 2-bromo-5-fluorophenol (0.29 mol, 57.9 g), and potassium carbonate (0.46 mol, 63 g) in N,N-dimethylformamide (750 mL) at room temperature for 16 h. Add water (1 L), stir the resulting mixture for one hour, filter off solids, rinse with water and dry in a vacuum oven (20 mm Hg/60° C.) to obtain the title compound (121 g, >100%). 1H NMR (400 MHz, DMSO-d6) δ 5.11 (s, 2H), 6.81 (t, 1H), 7.13 (t, 1H), 7.19 (dd, 1H), 7.46 (t, 1H), 7.59 (d, 1H), 7.62 (t, 1H), 7.93 (d, 1H).

reactant | 2-iodobenzyl bromide | 0.29 mol, 90 g | IC1=C(CBr)C=CC=C1 | C7H6BrI
reactant | 2-bromo-5-fluorophenol | 0.29 mol, 57.9 g | BrC1=C(C=C(C=C1)F)O | C6H4BrFO
reactant | potassium carbonate | 0.46 mol, 63 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1 L | O | H2O
solvent | N,N-dimethylformamide | 750 mL | CN(C=O)C | C3H7NO
product | 1-Bromo-4-fluoro-2-(2-iodo-benzyloxy)-benzene | 121 g, >100% | BrC1=C(C=C(C=C1)F)OCC1=C(C=CC=C1)I | C13H9BrFIO
